US08455522B2
A mixture of 3-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)isonicotinaldehyde (128 mg, 0.5 mmol), trifluoromethanesulfonamide (94 mg, 0.63 mmol), acetic acid (60.5 mg, 1 mmol) and 4° A molecular sieves in 1,2-dichloroentane (2 mL) heated at 70° C. under nitrogen for 6 h. The suspension was cooled to room temperature and sodium triacetoxyborohydride (excess amount) was added. The reaction mixture was further stirred at room temperature for an additional 15 h. The mixture was diluted with dichloromethane (20 mL) and filtered through a pad of celite. The filter cake was thoroughly washed with an additional 30 mL of dichloromethane. The combined filtrates were washed with NaHCO3 (saturated solution). The aqueous phase was extracted with dichloromethane (2×50 mL). The organic phases were combined, dried over anhydrous Na2SO4. After filtration and concentration, the residue was purified by flash column (0-100% ethyl acetate in heptane, v/v) and yielded 43 mg of 1,1,1-trifluoro-N-((3-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)pyridin-4-yl)methyl)methane-sulfonamide as colorless solid ESI-MS m/z; 388.0 [M+1]+, Retention time 1.19 min; 1HNMR (MeOD, 400.342 MHz): δ 3.43 (s, 3H), 4.41 (5, 2H), 7.12 (dd, J=8.2, 1.8 Hz, 1H), 7.15 (s, 1H), 7.21 (d, J=1.6 Hz, 1H), 760 (d, J=5.2 Hz, 1H), 8.46 (s, 1H), 8.60 (d, J=8.2 Hz, 1H); and 5-(4-(hydroxymethyl)pyridin-3-yl)-3-methylbenzo[d]oxazol-2(3H)-one 37 mg as pinkish solid ESI-MS m/z: 257.0 [M+1]+, Retention time 0.84 min; 1HNMR (MeOD, 400.342 MHz): δ 3.3 (s, 3H), 4.41 (s, 2H), 7.12 (dd, J=1.76, 8.2 Hz, 1H), 7.21 (d, J=1.56 Hz, 1H), 7.37 (d, J=8.2 Hz, 1H), 7.60 (d, J=5.2 Hz, 1H), 8.46 (s, 1H), 8.60 (d. J=5.2 Hz, 1H).

reactant | 3-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)isonicotinaldehyde | 0.5 mmol, 128 mg | CN1C(OC2=C1C=C(C=C2)C2=C(C=O)C=CN=C2)=O | C14H10N2O3
reactant | trifluoromethanesulfonamide | 0.63 mmol, 94 mg | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
reactant | acetic acid | 1 mmol, 60.5 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1,1,1-trifluoro-N-((3-(3-methyl-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)pyridin-4-yl)methyl)methane-sulfonamide | 43 mg | FC(S(=O)(=O)NCC1=C(C=NC=C1)C=1C=CC2=C(N(C(O2)=O)C)C1)(F)F | C15H12F3N3O4S
